2119-04-06 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2119-4-5**] 09:54 PM
 URINE CULTURE - At [**2119-4-6**] 01:31 AM
   -- most recent sodium 117, hypertonic saline discontinued
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-4-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-6**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 59 (55 - 71) bpm
   BP: 128/54(80) {96/46(62) - 176/76(111)} mmHg
   RR: 17 (12 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
             Total In:
                                                                    413 mL
                                                                    281 mL
   PO:
             TF:
   IVF:
                                                                    253 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    820 mL
   Urine:
                                                                    850 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -437 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, nausea improved
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : at bases R>L, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, left wrist in splint with
   mild tenderness but intact sensation and warm
   Skin:  Warm
   Neurologic: CN 2-12 Intact; [**3-28**] symmetric strength in UE and LE,
   PERRLA, somewhat slow to respond, but alerat and orientdx3
   Labs / Radiology
   282 K/uL
   11.7 g/dL
   97 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   7 mg/dL
   85 mEq/L
   118 mEq/L
   30.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2119-4-5**]  05:06 PM
                             [**2119-4-5**]  05:13 PM
                             [**2119-4-5**]  08:20 PM
                             [**2119-4-6**]  03:24 AM
   WBC
   8.6
   Hct
   30.9
   Plt
   282
   Cr
   0.5
   0.4
   TropT
   <0.01
   Glucose
   124
   125
   110
   97
   Other labs: PT / PTT / INR:13.6/27.4/1.2, CK / CKMB /
   Troponin-T:131/7/<0.01, Ca++:7.9 mg/dL, Mg++:2.7 mg/dL, PO4:1.5
   mg/dLCXR:
   Imaging: CXR: Deformity of the distal left radius consistent with a new
   superimposed distal
   left radial fracture in a patient with a previous distal radial
   fracture
   treated by volar plate and screws. Probable new slight deformation
   of the volar plate.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 FRACTURE, OTHER eft wrist
   83 yo F with history of hypothyroidism and hypoparathyroidism who
   presents with nausea and vomiting with severe hyponatremia likely [**12-26**]
   SIADH and multiple contributing medications.
   1- Hyponatremia/SIADH:  Cause is likely multifactorial given her recent
   paxil reinitiation, HCTZ, likely pulmonary infection, macrolide use and
   pain secondary to her left wrist fracture.  Sodium coorected to 118 and
   then fell to 115
   - q 4 hour  Na check
   - fluid restriction <1 L per day
   - hold offendiing agents (paxil)
   - holding Hypertonic saline, but will resume at 32 cc/hr if Na
   continues to fall
   - replete potassium PO
   - serial neuro checks
   - repeat urine osms
   2- Wrist fracture: History of wrist fracture with new deformation of
   the volar plate.  Plastics has evaluated the patient and she will need
   a surgical repair of the fracutre.
   - OR when stable, management per plastics
   - Tylenol prn, pain may contribute to SIADH
   - wrist splinting
   3-  Bronchitis/pneumonia:  Cough persists
   - levofloxacin 750 mg daily x 5 days
   - repeat CXR
   4- Anemia: admission Hct higher than outpt baseline.  Drop from 40 to
   30 likely [**12-26**] to fluid shifts.
   - Check pm Hct
   5-  Hypertension: currently uncontrolle
   - restart in AM Valsartan; hold HCTZ
   6- Hypothyroidism/hypoparathyroidism: will continue levothyroxine,
   check TSH.  As well will give 50,000 U vitamin D as per home dose.
   7. Benzodiazepine usage:  initially concerned for benzo withdrawal, but
   has not had benzo requirement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-4-5**] 05:36 PM
   Arterial Line - [**2119-4-5**] 09:54 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Possibly to floor if Na improving

2119-04-07 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-6**] Events
   - Na increased to 118, then dropped to 116
   - Started hypertonic saline in evening, repeat Na: 118
   - stopped hypertonic saline at 3 a.m.
   - CXR with no acute process
   - Plastics signed off
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-4-6**] 09:24 PM
   Heparin Sodium (Prophylaxis) - [**2119-4-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-7**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 54 (53 - 71) bpm
   BP: 116/51(73) {101/47(67) - 165/76(109)} mmHg
   RR: 13 (12 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
             Total In:
                                                                  1,139 mL
                                                                    111 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                    579 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    500 mL
   Urine:
                                                                  1,405 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -266 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, nausea improved
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : at bases R>L, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, left wrist in splint with
   mild tenderness but intact sensation and warm
   Skin:  Warm
   Neurologic: CN 2-12 Intact; [**3-28**] symmetric strength in UE and LE,
   PERRLA, somewhat slow to respond, but alerat and orientdx3
   Labs / Radiology
   259 K/uL
   11.3 g/dL
   93 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.4 mEq/L
   12 mg/dL
   97 mEq/L
   126 mEq/L
   31.0 %
   7.3 K/uL
        [image002.jpg]
                             [**2119-4-5**]  05:06 PM
                             [**2119-4-5**]  05:13 PM
                             [**2119-4-5**]  08:20 PM
                             [**2119-4-6**]  03:24 AM
                             [**2119-4-6**]  08:39 AM
                             [**2119-4-6**]  03:39 PM
                             [**2119-4-6**]  07:13 PM
                             [**2119-4-7**]  02:37 AM
   WBC
   8.6
   9.0
   11.6
   7.3
   Hct
   30.9
   31.1
   33.1
   31.0
   Plt
   282
   283
   325
   259
   Cr
   0.5
   0.4
   0.5
   0.6
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   124
   125
   110
   97
   101
   138
   93
   Other labs: PT / PTT / INR:13.6/27.4/1.2, CK / CKMB /
   Troponin-T:131/6/<0.01, Ca++:6.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Imaging: AP single view of the chest has been obtained with patient in
   sitting semiupright position. Relatively high positioned diaphragms are
   indicative of poor inspirational effort. Heart contours are partially
   obscured. In the accessible pulmonary areas the vasculature is normal
   without
   signs of congestion. No acute infiltrates are present and the lateral
   pleural
   sinuses are free. No evidence of pneumothorax in the apical area.
   Thoracic
   aorta is moderately widened and elongated in this elderly patient.
   Comparison is made with the next preceding AP and lateral chest
   examination of
   [**2119-4-5**]. No significant interval change can be identified.
   Microbiology: none
   ECG: repeat EKG:
   Assessment and Plan
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 FRACTURE, OTHERleft wrist
   83 yo F with history of hypothyroidism and hypoparathyroidism who
   presents with nausea and vomiting with severe hyponatremia likely [**12-26**]
   SIADH and multiple contributing medications.
   1- Hyponatremia/SIADH:  Cause is likely multifactorial given her recent
   paxil reinitiation, HCTZ, likely pulmonary infection, macrolide use and
   pain secondary to her left wrist fracture.  Most recent sodium 127 s/p
   6 hrs of hypertonic saline at 32cc/hr overnight.
   - q 8 hour  Na check, likely safe to transition to [**Hospital1 **] check tomorrow
   - fluid restriction <1.5 L per day
   - continue holding offendiing agents: paxil, HCTZ
   - If sodium begins to decline again, would give NS with lasix as per
   renal
   - daily neuro checks
   - repeat urine osms
   2. Altered mental staus: Presumably [**12-26**] hyponatremia. Significantly
   improved, most likely at baseline. UA not suggestive of UTI. No focal
   neurologic signs. Continue to monitor.
   2- Wrist fracture: History of wrist fracture with new deformation of
   the volar plate.  Plastics has evaluated the patient and she will need
   a surgical repair of the fracutre.
   - continue wrist spint
   - continue tylenol for pain control
   - per palstic, no plan to repair during this hospitalization
   3-  Bronchitis/pneumonia:  Cough persists
   - levofloxacin 750 mg daily x 5 days (d1= [**4-5**])
   4- Anemia: admission Hct higher than outpt baseline.  Drop from 40 to
   30 likely [**12-26**] to fluid shifts. Subsequent Hct has been stable.
   5-  Hypertension: currently elevated with SBP in 160
   - continue holding HCTZ
   - increase valsartan to 160mg daily
   6- Hypothyroidism/hypoparathyroidism: will continue levothyroxine,
   check TSH.  As well will give 50,000 U vitamin D as per home dose.
   7. Benzodiazepine usage:  initially concerned for benzo withdrawal, but
   has not had benzo requirement
   8. New TWI on EKG: enzymes negative. Repeat EKG with less significant
   T-wave changes, but still off baseline (nonspecific findings)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-4-5**] 05:36 PM
   Arterial Line - [**2119-4-5**] 09:54 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to floor